US04711890
N-ethyl-N-(1-methylpropyl)-2-(2-chlorophenyl)-quinoline-4-carboxamide
The procedure of Example 3 is followed using 2-(2-chlorophenyl)-quinoline-4-carboxylic acid (2.8 g), thionyl chloride (10 ml) and N-ethylbut-2-ylamine (4 g) as the starting materials.

reactant | 2-(2-chlorophenyl)-quinoline-4-carboxylic acid | 2.8 g | ClC1=C(C=CC=C1)C1=NC2=CC=CC=C2C(=C1)C(=O)O | C16H10ClNO2
reactant | N-ethylbut-2-ylamine | 4 g | C(C)NC(C)CC | C6H15N
solvent | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
product | N-ethyl-N-(1-methylpropyl)-2-(2-chlorophenyl)-quinoline-4-carboxamide | C(C)N(C(=O)C1=CC(=NC2=CC=CC=C12)C1=C(C=CC=C1)Cl)C(CC)C | C22H23ClN2O
